US07595359B2
{3-[2-(2,6-Diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionyl-amino]-propyl}-ethyl-dimethyl-ammonium-bromide-terephthalate (Compound 107, Table 1)
Ethylbromide (7.5 ml) is added to a solution of terephthalic acid bis-{1-[1-(3-dimethylami-no-propylcarbamoyl)-ethoxy]-2,6-diethyl-2,3,6-trimethyl-piperidine-4-yl}ester (11.0 g, 0.0125 mol) in acetonitrile (20 ml). The mixture is stirred at room temperature for 17 h and is then evaporated to afford 14.1 g of the title compound as a colorless amorphous solid.

reactant | Ethylbromide | 7.5 ml | C(C)Br | C2H5Br
reactant | terephthalic acid bis-{1-[1-(3-dimethylami-no-propylcarbamoyl)-ethoxy]-2,6-diethyl-2,3,6-trimethyl-piperidine-4-yl}ester | 0.0125 mol, 11.0 g | CN(CCCNC(=O)C(C)ON1C(C(C(CC1(C)CC)OC(C1=CC=C(C(=O)OC2C(C(N(C(C2)(C)CC)OC(C)C(NCCCN(C)C)=O)(C)CC)C)C=C1)=O)C)(C)CC)C | C48H84N6O8
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | {3-[2-(2,6-Diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionyl-amino]-propyl}-ethyl-dimethyl-ammonium-bromide terephthalate | 14.1 g | [Br-].C(C)C1(N(C(CC(C1C)O)(C)CC)OC(C(=O)NCCC[N+](C)(C)CC)C)C.C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-] | InChI=1S/C22H45N3O3.C8H6O4.BrH/c1-10-21(6)16-19(26)17(4)22(7,11-2)24(21)28-18(5)20(27)23-14-13-15-25(8,9)12-3;9-7(10)5-1-2-6(4-3-5)8(11)12;/h17-19,26H,10-16H2,1-9H3;1-4H,(H,9,10)(H,11,12);1H/p-2
